US09388153B2
Step 6. 2-(3-((6-(3-Fluorophenyl)-2,3-dihydro-1H-inden-1-yl)oxy)phenoxy)acetic acid
Aqueous lithium hydroxide (1 N, 1 mL, 1 mmol) was added to a solution of methyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)oxy)phenoxy)acetate (38 mg, 0.091 mmol) in THF (1 mL) in a scintillation vial. The vial was sealed and stirred overnight at 40° C. After 24 h, the reaction mixture was allowed to cool and the volatiles were concentrated. The residue was acidified with hydrochloric acid (1 N, 1 mL) and extracted with ethyl acetate (3×2 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by preparative TLC (1000 mm thickness, 15% methanol/dichloromethane) to afford 21 mg (61%) of the title compound.

reactant | lithium hydroxide | 1 mmol, 1 N, 1 mL | [OH-].[Li+]
reactant | methyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)oxy)phenoxy)acetate | 0.091 mmol, 38 mg | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)OC=1C=C(OCC(=O)OC)C=CC1 | C24H21FO4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(3-((6-(3-Fluorophenyl)-2,3-dihydro-1H-inden-1-yl)oxy)phenoxy)acetic acid | 21 mg, 61% | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)OC=1C=C(OCC(=O)O)C=CC1 | C23H19FO4
